US04321382
To an ice-cold solution of 56 ml (2.16 M, 121 mmoles) of dimethyl amine in methanol is added 8 ml (5.0 N, 40 mmoles) of HCl in methanol. After 5 minutes, 5.9 g (20 mmoles) of 11b-(4-fluorophenyl)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one is added. Thereafter, 14 mmoles of NaBH3CN is added. After 24 hours, some molecular sieves are added. 24 hours later, additional molecular sieves are added. After a further 24 hours, an additional 14 mmoles of NaBH3CN is added. After still another 24 hours, 7.5 ml (2.16 M, 16.2 mmoles) of dimethylamine in methanol and 2.0 ml (5.0 N, 10 mmoles) of HCl are added. Three days later, the product is worked-up by pouring it into aqueous sodium carbonate and ether. The mixture is filtered through filter aid; the ether layer is washed with aqueous NaOH, brine and dried (MgSO4). After concentration in vacuo, 6.25 g (96%) of a semi-oily white crystalline solid, i.e., 11b-(4-fluorophenyl)-1,3,4,6,7,11b-hexahydro-N,N-dimethyl-2H-benzo[a]quinolizin-2-amine, is obtained. This product is recrystallized from 100 ml of cyclohexane, yielding 1.6 g of 11b-(4-fluorophenyl)-1,3,4,6,7,11b-hexahydro-N,N-dimethyl-2H-benzo[a]quinolizin-2-amine, m.p. 159°-167° C.

reactant | dimethyl amine | 121 mmoles, 2.16 M, 56 ml | CNC | C2H7N
reactant | HCl | 40 mmoles, 5.0 N, 8 ml | Cl | ClH
reactant | 11b-(4-fluorophenyl)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizin-2-one | 20 mmoles, 5.9 g | FC1=CC=C(C=C1)C12CC(CCN2CCC2=C1C=CC=C2)=O | C19H18FNO
reactant | NaBH3CN | 14 mmoles | [BH3-]C#N.[Na+]
reactant | NaBH3CN | 14 mmoles | [BH3-]C#N.[Na+]
reactant | dimethylamine | 16.2 mmoles, 2.16 M, 7.5 ml | CNC | C2H7N
reactant | HCl | 10 mmoles, 5.0 N, 2.0 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 11b-(4-fluorophenyl)-1,3,4,6,7,11b-hexahydro-N,N-dimethyl-2H-benzo[a]quinolizin-2-amine | 1.6 g | FC1=CC=C(C=C1)C12CC(CCN2CCC2=C1C=CC=C2)N(C)C | C21H25FN2
